US07846954B2
Synthesized according to General Procedure 8. To a stirred solution of (R)-4-(3-hydroxy-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide (5.0 g, 14.8 mmol) and DMF (25 mL), under N2, at 5° C. (ice bath) was added DIEA (2.5 mL, 14.8 mmol). To this solution was added 4-fluorobenzenesulfonyl chloride (2.9 g, 14.8 mmol) portionwise over 10 minutes. The solution was stirred at ambient temperature for 20 minutes. To this solution was added MeOH (75 mL). The mixture was cooled to 5° C. via an ice bath and stirred for 30 minutes. The precipitate was filtered, washed with MeOH (20 mL), and vacuum dried to give [(R)-4-fluoro-N-(4-(3-hydroxy-2-oxopyrrolidin-1-yl)phenylsulfonyl]-N-(thiazol-2-yl)benzenesulfonamide as a white solid (6.5 g, 13.1 mmol, 89% yield). 1H-NMR (400 MHz, DMSO) δ 8.03-7.96 (m, 2H), 7.83-7.80 (m, 2H), 7.72 (d, J=5.1 Hz, 1H), 7.61 (dd, J=1.8, 7.1 Hz, 1H), 7.59 (s, 1H), 7.37 (s, 1H), 7.37 (dd, J=2.0, 15.6 Hz, 1H), 7.02 (d, J=5.1 Hz, 1H), 5.88 (d, J=5.9 Hz, 1H), 4.38-4.32 (m, 1H), 3.83-3.78 (m, 1H), 3.71 (td, J=9.5, 5.4 Hz, 1H), 2.52-2.42 (m, 1H), 1.87 (td, J=9.4, 4.1 Hz, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=498.3; tR=1.32 min.

reactant | (R)-4-(3-hydroxy-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | 14.8 mmol, 5.0 g | O[C@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C13H13N3O4S2
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | DIEA | 14.8 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorobenzenesulfonyl chloride | 14.8 mmol, 2.9 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | MeOH | 75 mL | CO | CH4O
product | (R)-4-fluoro-N-(4-(3-hydroxy-2-oxopyrrolidin-1-yl)phenylsulfonyl]-N-(thiazol-2-yl)benzenesulfonamide | 13.1 mmol, 6.5 g, 89% yield | FC1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)S(=O)(=O)C1=CC=C(C=C1)N1C([C@@H](CC1)O)=O | C19H16FN3O6S3
